US09422292B2
A mixture of 8-bromo-1-methyl-5,6-dihydrospiro[benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine-4,1′-cyclopropane] (150 mg, 0.49 mmol) and palladium on carbon (40 mg) in methanol (10 mL) was stirred for 2 hours at 40° C. under hydrogen atmosphere. The solid was filtered and the filtrate was concentrated to give crude 1-methyl-5,6-dihydrospiro[benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine-4,1′-cyclopropane] (100 mg, 91%) as yellow oil, used for the next step without further purification. LRMS (M+H+)+: calcd 226.12. found 226.

reactant | 8-bromo-1-methyl-5,6-dihydrospiro[benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine-4,1′-cyclopropane] | 0.49 mmol, 150 mg | BrC=1C=CC2=C(NCC3(CC3)C=3N2C(=NN3)C)C1 | C13H13BrN4
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | 1-methyl-5,6-dihydrospiro[benzo[b][1,2,4]triazolo[4,3-d][1,4]diazepine-4,1′-cyclopropane] | 100 mg, 91% | CC1=NN=C2N1C1=C(NCC23CC3)C=CC=C1 | C13H14N4
